US05466701
To a solution of 2-phenylthiomethyl-4-sec-butyl-6-methoxysaccharin (2.6 g) in CH2Cl2 (20 mL) was added sulfuryl chloride (0.7 mL). The mixture was stirred at ambient temperature overnight, and the solvent was removed in vacuo. The residue was treated with hexane and the mixture was sonicated for 6 hours. A precipitate formed with a collected by filtration to afford 1.33 g of 2-chloromethyl-4-sec-butyl-6-methoxysaccharin.

reactant | 2-phenylthiomethyl-4-sec-butyl-6-methoxysaccharin | 2.6 g | C1(=CC=CC=C1)SCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)CC)OC | C19H21NO4S2
reactant | sulfuryl chloride | 0.7 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-4-sec-butyl-6-methoxysaccharin | 1.33 g | ClCN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)CC)OC | C13H16ClNO4S
